US06162832
2-[4-(3-Nitrobenzyloxy)phenoxy]aniline hydrochloride
2-[4-(3-Nitrobenzyloxy)phenoxy]aniline (0.64 g, 1.9 mmol) was dissolved in ethyl acetate (10 ml), and 4 N hydrogen chloride-ethyl acetate solution (1 ml) was added, followed by stirring for 30 minutes. The solvent was evaporated under reduced pressure, and the residue was crystallized from diethyl ether to give the title compound (0.55 g).

reactant | 2-[4-(3-Nitrobenzyloxy)phenoxy]aniline | 1.9 mmol, 0.64 g | [N+](=O)([O-])C=1C=C(COC2=CC=C(OC3=C(N)C=CC=C3)C=C2)C=CC1 | C19H16N2O4
reactant | hydrogen chloride-ethyl acetate | 4 N, 1 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 2-[4-(3-Nitrobenzyloxy)phenoxy]aniline hydrochloride | 0.55 g | Cl.[N+](=O)([O-])C=1C=C(COC2=CC=C(OC3=C(N)C=CC=C3)C=C2)C=CC1 | InChI=1S/C19H16N2O4.ClH/c20-18-6-1-2-7-19(18)25-17-10-8-16(9-11-17)24-13-14-4-3-5-15(12-14)21(22)23;/h1-12H,13,20H2;1H
